US05602277
A mixture of methyl 3-formyl-5-nitrobenzoate (0.418 g, 2.0 mmol), hydroxylamine hydrochloride (0.209 g, 3.0 mmol) in ethanol (5.0 mL) was heated at reflux for 2 h. On cooling, the mixture was poured into water and the precipitate collected by filtration. The cake was recrystallized from ethyl acetate-hexane and dried to give 0.22 g (49%) of methyl 3-[(N-hydroxylimino)methyl]-5-nitrobenzoate as an off-white solid, mp 144°-145° C.

reactant | methyl 3-formyl-5-nitrobenzoate | 2.0 mmol, 0.418 g | C(=O)C=1C=C(C(=O)OC)C=C(C1)[N+](=O)[O-] | C9H7NO5
reactant | hydroxylamine hydrochloride | 3.0 mmol, 0.209 g | Cl.NO
reactant | water | O | H2O
solvent | ethanol | 5.0 mL | C(C)O | C2H6O
product | methyl 3-[(N-hydroxylimino)methyl]-5-nitrobenzoate | 0.22 g, 49% | ON=CC=1C=C(C(=O)OC)C=C(C1)[N+](=O)[O-] | C9H8N2O5
